US20010006686A1
A 100 μg/ml sample of the test solution was incubated with 1:200 dilution of thromboxane A2 synthase (isolated from a microsomal fraction of rabbit platelets) and 5 ng prostaglandin G2 as substrate in Tris buffer at a pH of 7.5 for 30 minutes at a temperature of 37° C. The thromboxane A2 formed was immediately converted to thromboxane B2 which was quantitated by a radioimmunoassay. The results of these assays are set forth in Table 5.

reactant | thromboxane A2 | CCCCC[C@@H](/C=C/[C@@H]1[C@H]([C@@H]2C[C@@H](O2)O1)C/C=C\CCCC(=O)O)O | C20H32O5
reactant | Tris | C(C(CO)(CO)N)O | C4H11NO3
product | prostaglandin G2 | 5 ng | CCCCC[C@@H](/C=C/[C@H]1[C@H]2C[C@@H]([C@@H]1C/C=C\CCCC(=O)O)OO2)OO | C20H32O6
